US05981507
A. Preparation of Ribavirin 5'-Monophosphate
The manufacture and synthesis Ribavirin (ICN Pharmaceuticals, Costa Mesa Calif.) are described in U.S. Pat. No. 4,211,771, incorporated herein by reference. A dry 1 L ml 3-neck round bottom flask, equipped with a stir bar, gas inlet adapter, and thermometer, was charged with 50 g Ribavirin (0.204 moles), 500 ml trimethyl phosphate, and 0.367 ml de-ionized water (0.0204 moles). The mixture was cooled under nitrogen with an ice/water bath. When the temperature reached 10° C., 23.3 ml phosphorous oxychloride was added, the flask was removed from the ice bath, and the mixture was stirred under nitrogen. After 30 min., the flask was cooled in the ice/water bath. When the temperature reached 10° C., the mixture was poured into a 2 L beaker containing 1000 ml ice water. The pH was adjusted to pH=9.0 using 4 M LiOH and the mixture was stirred overnight. After final adjustment to pH 9, the white precipitate that has formed is filtered away using a 0.2 mm filter. The mixture was evaporated at 40° C. under reduced pressure to 1 L. The solution was added to 1 L hot ethanol dropwise. The white precipitate was collected on a 2 L glass fritted funnel, coarse grade, washing the solid with two 100 ml portions of ethanol, re-suspending the solid each time. The product was dried under vacuum overnight, yield: 89 g. The solid was dissolved in 200 ml de-ionized water, and 5 g activated carbon was added. The mixture was filtered through a 0.2 mm filter, washing the carbon with 50 ml de-ionized water. The filtered solution was added dropwise to 1200 ml hot ethanol The mixture was cooled to room temperature, and the precipitate was collected on the 2 L glass fritted funnel. The solid was washed with 2×100 ml ethanol in the funnel, and dried under vacuum. Yield: 66.6 g. The dried product was dissolved in 200 ml de-ionized water. Amberlite IR-120 H.C.P. resin (H+ form) was added until the pH of the mixture reached pH=2.18. The resin was filtered off using a 0.2 mm filter, and the final solution was lyophilized. Yield: 54.8 g (0.160 moles), 78.5%, Ribavirin 5'-monophosphate. Elemental analysis indicates the product contains 1 mole water/mol ribavirin 5'-monophosphate.

reactant | Ribavirin | C1=NC(=NN1[C@H]2[C@@H]([C@@H]([C@H](O2)CO)O)O)C(=O)N | C8H12N4O5
reactant | Ribavirin | 0.204 moles, 50 g | C1=NC(=NN1[C@H]2[C@@H]([C@@H]([C@H](O2)CO)O)O)C(=O)N | C8H12N4O5
reactant | water | 0.0204 moles, 0.367 ml | O | H2O
reactant | phosphorous oxychloride | 23.3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 1 mole | O | H2O
reactant | trimethyl phosphate | 500 ml | P(=O)(OC)(OC)OC | C3H9O4P
product | Ribavirin 5'-Monophosphate | C1=NC(=NN1[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)O)O)O)C(=O)N | C8H13N4O8P
